US05939451
0.39 g (0.0022 mol) of (4,6-dichloro-pyrimidin-2-yl)-methylamine and 1.0 g (0.0044 mol) of 4-chloro-benzenesulfonamide potassium salt were stirred in 10 ml of 1 -methyl-2-pyrrolidone at 150° C. for 8 hours. Then, the solvent was distilled off in a high vacuum, the residue was partitioned in ethyl acetate/water and extracted. The aqueous phase was saturated with sodium chloride, evaporated briefly in a vacuum, made acid with 4N HCl and extracted with dichloromethane. The two extracts were combined and chromatographed over silica gel with cyclohexane/ ethyl acetate 1:1 as the eluent. There was obtained 0.62 g (85%) of 4-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals. m.p. 196-198° C.

reactant | (4,6-dichloro-pyrimidin-2-yl)-methylamine | 0.0022 mol, 0.39 g | ClC1=NC(=NC(=C1)Cl)NC | C5H5Cl2N3
reactant | 4-chloro-benzenesulfonamide potassium salt | 0.0044 mol, 1.0 g | [K+].ClC1=CC=C(C=C1)S(=O)(=O)[NH-]
solvent | 1 -methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.62 g, 85% | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H10Cl2N4O2S
